US07737166B2
2-[(Benzyloxy)methyl]-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#28)
2-[(Benzyloxy)methyl]-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-90) (70 mg, 0.19 mmol) was dissolved in dimethyl sulfoxide (1.4 ml), triethylamine (63 μl, 0.45 mmol) and (3S)-3-(dimethylamino)pyrrolidine (29 μl, 0.23 mmol) were added, followed by stirring at 90° C. for 4 hours under nitrogen atmosphere. After cooling to room temperature, ethyl acetate was added, followed by fractionation with water. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated away and the resulting residue was subjected to preparative, thin-layer silica gel column, chromatography, eluted with a mixed solvent of chloroform/methanol (10:1, v/v) to obtain the entitled compound (46 mg, 52%) as a yellow oily substance.

reactant | 2-[(Benzyloxy)methyl]-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.19 mmol, 70 mg | C(C1=CC=CC=C1)OCC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C23H17FN2O2
reactant | triethylamine | 0.45 mmol, 63 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.23 mmol, 29 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 1.4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-[(Benzyloxy)methyl]-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 46 mg, 52% | C(C1=CC=CC=C1)OCC=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C)C#N | C29H30N4O2
